US05430190
A one-pot reaction process for the coproduction of two polyurethane catalysts which comprises reacting excess diethylenetriamine (DETA) in a reaction vessel with propylene oxide in the presence of a hydrogenation catalyst under conditions and for a period of time to essentially completely react the propylene oxide to give a mixture of DETA and N-2-hydroxypropyldiethylenetriamine (HPDETA), adding formaldehyde and hydrogen to the reaction vessel, reacting the DETA and HPDETA with the formaldehyde and hydrogen under conditions to effect permethylation of the DETA and HPDETA to afford N,N,N',N',N"-pentamethyldiethylenetriamine (PMDETA), a polyurethane catalyst, and N-2-hydroxypropyl-N,N',N',N"-tetramethyldiethylenetriamine (HPTMDETA) a nonfugitive polyurethane catalyst.

reactant | diethylenetriamine | NCCNCCN | C4H13N3
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | N-2-hydroxypropyldiethylenetriamine | OC(CNCCNCCN)C | C7H19N3O
reactant | formaldehyde | C=O | CH2O
reactant | hydrogen | [H][H] | H2
product | N,N,N',N',N"-pentamethyldiethylenetriamine | CN(C)CCN(C)CCN(C)C | C9H23N3
